US07368578B2
A mixture of ethyl [4-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)phenyl]acetate (2.00 g), methyl 3-hydroxyisoxazole-5-carboxylate (0.974 g), anhydrous potassium carbonate (0.941 g) and N,N-dimethylformamide (40 mL) was stirred at 90° C. for 2 hrs. Water was poured into the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and filtered through silica gel. The filtrate was concentrated to give methyl 3-({2-[4-(2-ethoxy-2-oxoethyl)phenyl]-5-methyl-1,3-oxazol-4-yl}methoxy)isoxazole-5-carboxylate as colorless crystals (2.02 g, yield 81%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 124-126° C.

reactant | ethyl [4-(4-chloromethyl-5-methyl-1,3-oxazol-2-yl)phenyl]acetate | 2.00 g | ClCC=1N=C(OC1C)C1=CC=C(C=C1)CC(=O)OCC | C15H16ClNO3
reactant | methyl 3-hydroxyisoxazole-5-carboxylate | 0.974 g | OC1=NOC(=C1)C(=O)OC | C5H5NO4
reactant | potassium carbonate | 0.941 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | methyl 3-({2-[4-(2-ethoxy-2-oxoethyl)phenyl]-5-methyl-1,3-oxazol-4-yl}methoxy)isoxazole-5-carboxylate | 2.02 g, yield 81% | C(C)OC(CC1=CC=C(C=C1)C=1OC(=C(N1)COC1=NOC(=C1)C(=O)OC)C)=O | C20H20N2O7
